US05654318
7-([S,S]-2-t-Butoxycarbonyl-2,8-diazabicyclo[4.3.0]nonan-8-yl)-8-chloro-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic Acid
In 20 ml of acetonitrile were dissolved 344 mg of 8-chloro-6,7-difluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 490 mg of (S,S)-1-t-butoxycarbonyloctahydropyrrolo[3.4-b]pyridine (also termed "(S,S)-2-t-butoxycarbonyl-2,8-azabicyclo[4.3.0]nonane"), and 1 ml of triethylamine, and the solution was heated under reflux for 5 hours. After completion of the reaction, the solvent was removed under reduced pressure. To a residue was added 30 ml of water, followed by extracting with chloroform (30 ml×4). The combined organic layer was washed with 100 ml of a 10% citric acid aqueous solution and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and a residue was recrystallized from acetonitrile to yield 317 mg of the titled compound.

reactant | 8-chloro-6,7-difluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 344 mg | ClC=1C(=C(C=C2C(C(=CN(C12)[C@H]1[C@H](C1)F)C(=O)O)=O)F)F | C13H7ClF3NO3
reactant | (S,S)-1-t-butoxycarbonyloctahydropyrrolo[3.4-b]pyridine | 490 mg | C(C)(C)(C)OC(=O)N1[C@H]2[C@@H](CCC1)CNC2 | C12H22N2O2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 7-([S,S]-2-t-Butoxycarbonyl-2,8-diazabicyclo[4.3.0]nonan-8-yl)-8-chloro-6-fluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylic Acid | 317 mg | C(C)(C)(C)OC(=O)N1[C@@H]2CN(C[C@@H]2CCC1)C1=C(C=C2C(C(=CN(C2=C1Cl)[C@H]1[C@H](C1)F)C(=O)O)=O)F | C25H28ClF2N3O5
